US09210927B2
Preparation of (E)-N-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenoxy)cyclopropanecarboxamide (CC52)
To a stirred solution of (E)-O-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)hydroxylamine (0.15 g, 0.38 mmol) in CH2Cl2 (5 mL) was added EDC.HCl (0.109 g, 0.569 mmol), HOBt.H2O (0.087 g, 0.569 mmol), DIPEA (0.097 g, 0.758 mmol) and cyclopropanecarboxylic acid (0.049 g, 0.569 mmol). The resultant reaction mixture was stirred at ambient temperature for 18 h. The reaction mixture was diluted with H2O and extracted with CHCl3 (35 mL) The combined CHCl3 layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2; 20% EtOAc in hexane) afforded the title compound as a brown liquid (0.06 g, 34%): 1H NMR (400 MHz, CDCl3) δ 7.40 (s, 2H), 7.18 (s, 1H), 7.08 (s, 1H), 6.85 (m, 1H), 6.45 (m, 1H), 6.65 (m, 1H), 6.20 (m, 1H), 5.55 (s, 1H), 4.08 (m, 1H), 1.90 (m, 1H), 1.30-1.10 (m, 4H); ESIMS m/z 464.87 ([M−H]−).

reactant | (E)-O-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)hydroxylamine | 0.38 mmol, 0.15 g | FC(C(/C=C/C1=CC=C(C=C1)ON)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C16H11Cl3F3NO
reactant | EDC.HCl | 0.569 mmol, 0.109 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.758 mmol, 0.097 g | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropanecarboxylic acid | 0.569 mmol, 0.049 g | C1(CC1)C(=O)O | C4H6O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
solvent | H2O | 0.569 mmol, 0.087 g | O | H2O
product | (E)-N-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenoxy)cyclopropanecarboxamide | 0.06 g, 34% | FC(C(/C=C/C1=CC=C(ONC(=O)C2CC2)C=C1)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C20H15Cl3F3NO2
